2186-10-24 04:27:00 Physician Attending Progress Note
Chief Complaint: resp failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   42M with asthma - presented to OSH yesterday morning with cough, no
   fevers. Became increasingly SOB in ER and intubated because of
   hypercarbia. Given Mg, prednisone, nebs, avelox.
   Upon arrival, stable on vent. In our ER given paralytics. Febrile to
   101.8.
   24 Hour Events:
 EKG - At [**2186-10-24**] 04:11 AM
   History obtained from housestaff
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   asthma - never hospitalized though in the ER 2-3 times a year
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Respiratory: Cough, Dyspnea
   Flowsheet Data as of  [**2186-10-24**] 04:27 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.6
   Tcurrent: 38.1
C (100.6
   HR: 114 (114 - 116) bpm
   BP: 83/46(55) {83/46(55) - 115/54(70)} mmHg
   RR: 27 (27 - 27) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
             Total In:
             1,091 mL
   PO:
             TF:
   IVF:
   1,091 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                    100 mL
   Urine:
   100 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                    991 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 486 (486 - 486) mL
   PS : 10 cmH2O
   RR (Spontaneous): 25
   PEEP: 8 cmH2O
   FiO2: 40%
   PIP: 23 cmH2O
   SpO2: 100%
   ABG: 7.24/58/462 on AC
   Ve: 11.3 L/min
   PaO2 / FiO2: 1,155
   Physical Examination
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : )
   Abdominal: Soft, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed, sedated
   Labs / Radiology
   162
   23
   40
   16
        [image002.jpg]
                            [**2186-10-24**]  02:20 AM
   TCO2
   26
   Other labs: Band:4, Lactic Acid:4.5
   Imaging: CXR ? subtle suprahilar infiltrates
   ECG: ST, no ischemia
   Assessment and Plan
 RESPIRATORY FAILURE / asthma exacerbation / possible pna - continue
   vent support, wean as tolerated, continue steroids, bronchodilators,
   abx. follow micro eval
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2186-10-24**] 03:47 AM
   18 Gauge - [**2186-10-24**] 03:47 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37 minutes
   Patient is critically ill

2186-10-25 07:37:00 Physician Resident Progress Note
Chief Complaint: hypercarbic respiratory failure
   24 Hour Events:
   - Influenza DFA returned negative, ostelmavir and ramantidine
   discontinued
   - Legionella Ag negative
   - Lactate trended down from 5 to 2.3
   - PS weaned to [**5-9**], ABG 7.32/45/77
   - CTA did not show PE but suggestion of relapsing polychondritis.  [**Doctor First Name **],
   RF, ANCA ordered.  ECHO ordered.
   - IP consulted with plan to evaluate before extubation.
   - Spike overnight to 101.1, pancultured
   History obtained from Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2186-10-24**] 05:00 AM
   Ceftriaxone - [**2186-10-25**] 04:00 AM
   Infusions:
   Propofol - 60 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2186-10-25**] 12:09 AM
   Heparin Sodium (Prophylaxis) - [**2186-10-25**] 04:00 AM
   Other medications:
   Changes to medical and family history: n/a
   Review of systems is unchanged from admission except as noted below
   Review of systems: unable to obtain as patient sedated
   Flowsheet Data as of  [**2186-10-25**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38.1
C (100.6
   HR: 75 (75 - 108) bpm
   BP: 98/48(60) {97/45(58) - 127/71(79)} mmHg
   RR: 19 (14 - 29) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  7,543 mL
                                                                    384 mL
   PO:
             TF:
   IVF:
                                                                  5,483 mL
                                                                    324 mL
   Blood products:
   Total out:
                                                                  3,625 mL
                                                                    405 mL
   Urine:
                                                                  3,425 mL
                                                                    405 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,918 mL
                                                                    -21 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 416 (396 - 452) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 83
   PIP: 11 cmH2O
   SpO2: 97%
   ABG: 7.32/45/77/26/-3
   Ve: 9.4 L/min
   PaO2 / FiO2: 257
   Physical Examination
   Vitals - T 100.6 BP 115/54 HR 116 RR 27 02sat 100% on FiO2 1.0
   GENERAL: Intubated, sedated
   HEENT: PERRL OG/ET tubes in place
   NECK: No JVD
   CARDIAC: reg rate no m/r/g
   LUNGS: good air movement  clear anteriorly no wheeze/rales/rhonchi
   ABDOMEN: soft NTND normoactive bowel sounds
   EXT: warm, dry full distal pulses no clubbing, cyanosis, edema
   NEURO: withdraws to painful stimuli
   DERM: no rash
   Labs / Radiology
   166 K/uL
   12.6 g/dL
   163 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.3 mEq/L
   21 mg/dL
   111 mEq/L
   143 mEq/L
   35.6 %
   15.3 K/uL
        [image002.jpg]
                            [**2186-10-24**]  02:20 AM
                            [**2186-10-24**]  04:16 AM
                            [**2186-10-24**]  05:01 AM
                            [**2186-10-24**]  11:51 AM
                            [**2186-10-25**]  03:12 AM
   WBC
   16.2
   15.3
   Hct
   38.1
   35.6
   Plt
   188
   166
   Cr
   1.2
   0.9
   TCO2
   26
   21
   24
   Glucose
   156
   163
   Other labs: PT / PTT / INR:13.5/23.9/1.2, ALT / AST:[**12-21**], Alk Phos / T
   Bili:56/0.7, Lactic Acid:1.5 mmol/L, LDH:224 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Imaging: [**10-24**] CTA chest
   1)Diffuse tracheobronchial wall thickening with calcification causing
   narrowing of the entire tracheobronchial tree with mucous plugging in
   the
   lower lobes bilaterally. The appearance is highly suggestive of
   relapsing
   polychondritis.
   2)Centrilobular nodules in the left lower lobe suggest recent infection
   or
   inflammation.
   3)No central pulmonary embolism.
   Microbiology: [**2186-10-25**] 12:41 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2186-10-25**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
   [**2186-10-24**] 4:05 am Influenza A/B by DFA
         Source: Nasopharyngeal swab.
                               **FINAL REPORT [**2186-10-24**]**
      DIRECT INFLUENZA A ANTIGEN TEST (Final [**2186-10-24**]):
         Negative for Influenza A.
      DIRECT INFLUENZA B ANTIGEN TEST (Final [**2186-10-24**]):
         Negative for Influenza B.
                     **FINAL REPORT [**2186-10-24**]**
      Legionella Urinary Antigen  (Final [**2186-10-24**]):
         NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN.
   Assessment and Plan
   42M transferred for management of hypercarbic respiratory failure due
   to asthma exacerbation possibly triggered by community-acquired
   pneumonia, as well as radiographic evidence of relapsing
   polychondritis.
   .
   #Hypercarbic respiratory failure
 stable on PSV with adequate tidal
   volumes, minute ventilation, & air movement; sputum gram stain growing
   gram neg diplococci & GPC pairs/clusters but no infiltrate on CXR; CTA
   neg for PE; swab neg for influenza
   -cont PSV 5/5, weaning protocol
   -IP to eval cords & upper airway prior to trial of extubation
   -repeat sputum Cx
   -cont ceftriaxone (day 2), start vanco pending further culture data
   -d/c azithro
   -clarify gram negative speciation with micro lab, consider discussing
   with ID as neisseria meningitidis requires contact prophylaxis &
   reporting to health department
   -solumedrol 125 mg IV q8h (day [**2-7**])
   -nebs standing
   .
   #Presumptive relapsing polychondritis
   -IP eval, as above
   -autoantibodies pending
   -TTE
   -rheum consult
   .
   #FEN: nutrition consult re: tube feed recs
   .
   #PPx: SQH
   .
   #ACCESS: PIV x 2
   .
   #CODE: FULL CODE
   .
   #CONTACT: [**Name (NI) 987**] [**Name (NI) 10860**], wife, [**Telephone/Fax (5) 10861**]
   .
   #DISPO: ICU
   ICU Care
   Nutrition: Nutrition consult re: tube feed recs
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2186-10-24**] 03:47 AM
   18 Gauge - [**2186-10-24**] 04:17 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Code status: Full code
   Disposition:ICU

2186-10-25 10:13:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SPUTUM CULTURE - At [**2186-10-25**] 12:45 AM
 BLOOD CULTURED - At [**2186-10-25**] 01:15 AM
 URINE CULTURE - At [**2186-10-25**] 01:16 AM
 FEVER - 101.1
F - [**2186-10-25**] 12:00 AM
   - Influenza DFA returned negative, ostelmavir and ramantidine
   discontinued
   - Legionella Ag negative
   - Lactate trended down from 5 to 2.3
   - PS weaned to [**5-9**], ABG 7.32/45/77
   - CTA did not show PE but suggestion of relapsing polychondritis.  [**Doctor First Name **],
   RF, ANCA ordered.  ECHO ordered.
   - IP consulted with plan to evaluate before extubation.
   - Spike overnight to 101.1, pancultured
   History obtained from Family / [**Hospital 75**] Medical records
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Azithromycin - [**2186-10-24**] 05:00 AM
   Ceftriaxone - [**2186-10-25**] 04:00 AM
   Vancomycin - [**2186-10-25**] 09:20 AM
   Infusions:
   Other ICU medications:
   Propofol - [**2186-10-25**] 12:09 AM
   Heparin Sodium (Prophylaxis) - [**2186-10-25**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-10-25**] 10:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.4
C (101.1
   Tcurrent: 37.8
C (100
   HR: 81 (75 - 108) bpm
   BP: 110/54(67) {97/45(58) - 125/65(78)} mmHg
   RR: 25 (14 - 29) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  7,543 mL
                                                                    641 mL
   PO:
             TF:
   IVF:
                                                                  5,483 mL
                                                                    581 mL
   Blood products:
   Total out:
                                                                  3,625 mL
                                                                    555 mL
   Urine:
                                                                  3,425 mL
                                                                    555 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,918 mL
                                                                     86 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 447 (396 - 452) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 83
   PIP: 10 cmH2O
   SpO2: 100%
   ABG: 7.32/45/77/26/-3
   Ve: 9.4 L/min
   PaO2 / FiO2: 257
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL, No(t) Pupils dilated, No(t) Sclera edema
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Present), (Left DP pulse:
   Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   inspiratory and expiratory)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   166 K/uL
   12.6 g/dL
   163 mg/dL
   0.9 mg/dL
   26 mEq/L
   4.3 mEq/L
   21 mg/dL
   111 mEq/L
   143 mEq/L
   35.6 %
   15.3 K/uL
        [image002.jpg]
                            [**2186-10-24**]  02:20 AM
                            [**2186-10-24**]  04:16 AM
                            [**2186-10-24**]  05:01 AM
                            [**2186-10-24**]  11:51 AM
                            [**2186-10-25**]  03:12 AM
   WBC
   16.2
   15.3
   Hct
   38.1
   35.6
   Plt
   188
   166
   Cr
   1.2
   0.9
   TCO2
   26
   21
   24
   Glucose
   156
   163
   Other labs: PT / PTT / INR:13.5/23.9/1.2, ALT / AST:[**12-21**], Alk Phos / T
   Bili:56/0.7, Lactic Acid:1.5 mmol/L, LDH:224 IU/L, Ca++:8.0 mg/dL,
   Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Microbiology: [**10-25**] -    GRAM STAIN (Final [**2186-10-25**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.  IN PAIRS AND
   CLUSTERS.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   42M h/o asthma transferred for management of hypercarbic respiratory
   failure requiring mechanical ventilation.
   .
   #Hypercarbic respiratory failure - ABG reflects acute metabolic and
   respiratory acidosis without compensation; rapid deterioration
   consistent with acute asthma exacerbation in the setting of a likely
   infectious trigger ,, CT consistent with Polychondritis
   -wean vent as tolerate but will defer extubation to IP
   -bronch today
   -community-acquire PNA cov'g with ceftriaxone, will d/c coverage
   -f/u sputum culture, growing gram neg diplococci
   -will change solumedrol to prednisone 60mg daily
   -influenza nasopharyngeal swab negative
   -nebs standing
   -repeat CXR
   -urine legionella antigen negative
   -Rheum consult
   .
   #Sedation
   -cont propofol
   .
   Coffee ground emesis
   - will start PPI
   - trend HCT
   .
   #Elevated lactate - trending down
   -ABX, as above
   -f/u blood, urine Cx
   .
   #FEN: NPO for now pending potential extubation, will contact nutrition
   if not-extubated for tube feed rec's, IVF, replete lytes
   .
   #CONTACT: [**Name (NI) 987**] [**Name (NI) 10860**], wife, [**Telephone/Fax (5) 10861**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2186-10-24**] 03:47 AM
   18 Gauge - [**2186-10-24**] 04:17 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2186-10-27 07:23:00 Physician Resident Progress Note
Chief Complaint: Respiratory distress
   24 Hour Events:
   -sputum Cx [**10-25**] showed only rare oral flora, vanc/ceftriax d/c'd
   -PSV weaned to [**5-9**] (30% FiO2)
   -tube feeds held at midnight for weaning trial in AM
   Patient unable to provide history: Sedated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2186-10-26**] 04:00 AM
   Vancomycin - [**2186-10-26**] 09:01 AM
   Infusions:
   Propofol - 45 mcg/Kg/min
   Other ICU medications:
   Ranitidine (Prophylaxis) - [**2186-10-26**] 12:17 PM
   Heparin Sodium (Prophylaxis) - [**2186-10-26**] 12:17 PM
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:  Unable to obtain
   Flowsheet Data as of  [**2186-10-27**] 07:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 37.2
C (99
   HR: 66 (53 - 72) bpm
   BP: 103/52(64) {98/48(60) - 140/573(84)} mmHg
   RR: 19 (10 - 21) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 75.9 kg
   Height: 70 Inch
             Total In:
                                                                  2,186 mL
                                                                    225 mL
   PO:
             TF:
                                                                    942 mL
   IVF:
                                                                    934 mL
                                                                    225 mL
   Blood products:
   Total out:
                                                                  2,189 mL
                                                                    760 mL
   Urine:
                                                                  2,189 mL
                                                                    760 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                     -3 mL
                                                                   -535 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 355 (327 - 548) mL
   PS : 5 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 57
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///32/
   Ve: 5.6 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Wheezes :
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   175 K/uL
   11.9 g/dL
   112 mg/dL
   0.7 mg/dL
   32 mEq/L
   4.6 mEq/L
   20 mg/dL
   107 mEq/L
   145 mEq/L
   36.2 %
   10.5 K/uL
        [image002.jpg]
                            [**2186-10-24**]  02:20 AM
                            [**2186-10-24**]  04:16 AM
                            [**2186-10-24**]  05:01 AM
                            [**2186-10-24**]  11:51 AM
                            [**2186-10-25**]  03:12 AM
                            [**2186-10-26**]  04:32 AM
                            [**2186-10-27**]  04:45 AM
   WBC
   16.2
   15.3
   10.5
   Hct
   38.1
   35.6
   36.2
   Plt
   188
   166
   175
   Cr
   1.2
   0.9
   0.9
   0.7
   TCO2
   26
   21
   24
   Glucose
   156
   163
   114
   112
   Other labs: PT / PTT / INR:13.5/23.9/1.2, ALT / AST:[**12-21**], Alk Phos / T
   Bili:56/0.7, Lactic Acid:1.5 mmol/L, LDH:224 IU/L, Ca++:8.3 mg/dL,
   Mg++:2.2 mg/dL, PO4:5.0 mg/dL
   Imaging: CXR:  beautiful
   Microbiology:
   Time Taken Not Noted     Log-In Date/Time: [**2186-10-25**] 5:51 pm
         TISSUE      TRACHEAL BIOPSY.
      GRAM STAIN (Final [**2186-10-26**]):
         NO POLYMORPHONUCLEAR LEUKOCYTES SEEN.
         NO MICROORGANISMS SEEN.
      TISSUE (Preliminary):    NO GROWTH.
      ANAEROBIC CULTURE (Preliminary):
      FUNGAL CULTURE (Preliminary):
   ------------------
   [**2186-10-25**] 12:41 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2186-10-25**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   GRAM NEGATIVE DIPLOCOCCI.
         1+    (<1 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND CLUSTERS.
      RESPIRATORY CULTURE (Preliminary):
         RARE GROWTH Commensal Respiratory Flora.
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   42M admitted with hypercarbic respiratory failure requiring mechanical
   ventilation, most attributable to flare of relapsing polychondritis.
   #Hypercarbic respiratory failure secondary to presumed relapsing
   polychondritis
 stable on PSV; trial of extubation deferred in the
   setting of laryngeal/airway edema seen on flex bronch; possible
   infectious trigger, likely viral (not flu) as sputum culture has been
   negative
   -cont. PSV ventilation
   -check a cuff leak-->trial of extubation today, may benefit from
   racemic epi, humidified air, emergency airway kit available at bedside
   during trial v. in OR
   -off abx
   -daily CXR
   #? Relasping polychondritis
 flex bronch [**10-25**] showed diffuse airway
   calcification and inflammation; TTE without evidence of structural
   heart involvement.  [**Doctor First Name **], ANCA negative.
   -await tissue culture, path
   -cont. prednisone 30 mg [**Hospital1 7**]
   -f/u anti-type II collagen AB
   -appreciate rheum recs
   #Coffee ground emesis
   - H2blocker
   - trend HCT
   #FEN: TFs held this AM, replete lytes
   #CONTACT: [**Name (NI) 987**] [**Name (NI) 10860**], wife, [**Telephone/Fax (1) 10861**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-10-26**] 09:02 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2186-10-28 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2186-10-27**] 10:30 AM
   EXTUBATED
   Patient unable to provide history: Language barrier
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2186-10-26**] 04:00 AM
   Vancomycin - [**2186-10-26**] 09:01 AM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2186-10-28**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 58 (53 - 79) bpm
   BP: 108/74(82) {78/15(61) - 158/75(115)} mmHg
   RR: 16 (10 - 20) insp/min
   SpO2: 92%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 75 kg (admission): 75.9 kg
   Height: 70 Inch
                  Total In:
                                                                    548 mL
                  PO:
                                                                    220 mL
                  TF:
   IVF:
                                                                    328 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    800 mL
   Urine:
                                                                  1,440 mL
                                                                    800 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -892 mL
                                                                   -800 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: PSV/SBT
   Vt (Spontaneous): 623 (623 - 623) mL
   PS : 5 cmH2O
   PEEP: 0 cmH2O
   FiO2: 40%
   PIP: 5 cmH2O
   SpO2: 92%
   ABG: ///31/
   Ve: 777 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Head, Ears, Nose, Throat: Normocephalic, No(t) Endotracheal tube, No(t)
   NG tube, No(t) OG tube
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Wheezes : expiratory, Rhonchorous:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent, No(t) Cyanosis, No(t) Clubbing
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm, No(t) Rash: , No(t) Jaundice
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   179 K/uL
   13.2 g/dL
   106 mg/dL
   0.8 mg/dL
   31 mEq/L
   4.5 mEq/L
   23 mg/dL
   103 mEq/L
   140 mEq/L
   39.9 %
   7.5 K/uL
        [image002.jpg]
                            [**2186-10-24**]  02:20 AM
                            [**2186-10-24**]  04:16 AM
                            [**2186-10-24**]  05:01 AM
                            [**2186-10-24**]  11:51 AM
                            [**2186-10-25**]  03:12 AM
                            [**2186-10-26**]  04:32 AM
                            [**2186-10-27**]  04:45 AM
                            [**2186-10-27**]  06:30 AM
                            [**2186-10-28**]  04:44 AM
   WBC
   16.2
   15.3
   10.5
   8.0
   7.5
   Hct
   38.1
   35.6
   36.2
   35.5
   39.9
   Plt
   188
   166
   175
   179
   179
   Cr
   1.2
   0.9
   0.9
   0.7
   0.8
   TCO2
   26
   21
   24
   Glucose
   156
   163
   114
   112
   106
   Other labs: PT / PTT / INR:13.5/23.9/1.2, ALT / AST:[**12-21**], Alk Phos / T
   Bili:56/0.7, Lactic Acid:1.5 mmol/L, LDH:224 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.6 mg/dL
   Microbiology: Path - Respiratory mucosa with focal squamous metaplasia
   and marked mixed inflammation with fibrino-inflammatory exudates.
   Assessment and Plan
   42M admitted with hypercarbic respiratory failure requiring mechanical
   ventilation, most attributable to flare of relapsing polychondritis.
   #Hypercarbic respiratory failure secondary to presumed relapsing
   polychondritis
 stable on PSV; trial of extubation deferred in the
   setting of laryngeal/airway edema seen on flex bronch; possible
   infectious trigger, likely viral (not influenza) as sputum culture only
   consistent with oral flora; tissue gram stain without PMN/organisms;
   d/c
d ABX [**10-26**]
   -extubated successfully
   .
   #Presumptive relasping polychondritis
 flex bronch [**10-25**] showed
   diffuse airway calcification and inflammation; TTE without evidence of
   structural heart involvement.  [**Doctor First Name **], ANCA negative.
   -await tissue culture, path
   -cont. prednisone 30 mg [**Hospital1 7**], will need to clarify course
   -f/u anti-type II collagen AB
   -appreciate rheum recs
   .
   #PPx
   -SQH, H2blocker
   .
   #FEN: Advance diet, replete lytes
   #CONTACT: [**Name (NI) 987**] [**Name (NI) 10860**], wife, [**Telephone/Fax (1) 10861**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   18 Gauge - [**2186-10-26**] 09:02 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:Transfer to floor

2186-10-28 11:03:00 Physician Attending Progress Note
Chief Complaint: respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   42M with h/o asthma, presented with respiratory failure and ct evidence
   of relapsing polychondirites,
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2186-10-27**] 10:30 AM
   extubated.
   path unrevealing.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Ceftriaxone - [**2186-10-26**] 04:00 AM
   Vancomycin - [**2186-10-26**] 09:01 AM
   Infusions:
   Other ICU medications:
   Other medications:
   sqh, prednisone 30 [**Hospital1 **], ranitidine 150 [**Hospital1 **], vit d, ca
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fatigue, No(t) Fever
   Ear, Nose, Throat: No(t) OG / NG tube
   Nutritional Support: NPO
   Respiratory: Cough, No(t) Dyspnea, No(t) Tachypnea
   Gastrointestinal: No(t) Abdominal pain
   Genitourinary: No(t) Dysuria, No(t) Foley
   Psychiatric / Sleep: No(t) Delirious
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2186-10-28**] 10:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.4
C (97.5
   HR: 56 (53 - 79) bpm
   BP: 108/74(82) {78/15(61) - 158/75(115)} mmHg
   RR: 18 (13 - 20) insp/min
   SpO2: 94%
   Heart rhythm: SB (Sinus Bradycardia)
   Wgt (current): 75 kg (admission): 75.9 kg
   Height: 70 Inch
                  Total In:
                                                                    548 mL
                                                                     50 mL
   PO:
                                                                    220 mL
                                                                     50 mL
   TF:
   IVF:
                                                                    328 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                  1,150 mL
   Urine:
                                                                  1,440 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -892 mL
                                                                 -1,100 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 94%
   ABG: ///31/
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese
   Head, Ears, Nose, Throat: No(t) Endotracheal tube, No(t) NG tube, No(t)
   OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: throughout), no stridor
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: No(t) Muscle wasting, No(t) Unable to stand
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   13.2 g/dL
   179 K/uL
   106 mg/dL
   0.8 mg/dL
   31 mEq/L
   4.5 mEq/L
   23 mg/dL
   103 mEq/L
   140 mEq/L
   39.9 %
   7.5 K/uL
        [image002.jpg]
                            [**2186-10-24**]  02:20 AM
                            [**2186-10-24**]  04:16 AM
                            [**2186-10-24**]  05:01 AM
                            [**2186-10-24**]  11:51 AM
                            [**2186-10-25**]  03:12 AM
                            [**2186-10-26**]  04:32 AM
                            [**2186-10-27**]  04:45 AM
                            [**2186-10-27**]  06:30 AM
                            [**2186-10-28**]  04:44 AM
   WBC
   16.2
   15.3
   10.5
   8.0
   7.5
   Hct
   38.1
   35.6
   36.2
   35.5
   39.9
   Plt
   188
   166
   175
   179
   179
   Cr
   1.2
   0.9
   0.9
   0.7
   0.8
   TCO2
   26
   21
   24
   Glucose
   156
   163
   114
   112
   106
   Other labs: PT / PTT / INR:13.5/23.9/1.2, ALT / AST:[**12-21**], Alk Phos / T
   Bili:56/0.7, Lactic Acid:1.5 mmol/L, LDH:224 IU/L, Ca++:8.5 mg/dL,
   Mg++:2.3 mg/dL, PO4:4.6 mg/dL
   Assessment and Plan
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 11**])
 FEVER, UNKNOWN ORIGIN (FUO, HYPERTHERMIA, PYREXIA)
   42M with prior diagnosis of asthma, but probably relapsing
   polychondritis, presented with respiratory failure of unclear etiology,
   asthma exacerbation (less likely) vs relapsing polychondritis, now
   extubated, on room air, doing well.
   Will continue to monitor out of ICU and define course of steroids, with
   followup in rheumatology and pulmonary clinics.
   ICU Care
   Nutrition: advance as tolerated.
   Glycemic Control:  Blood sugar well controlled
   Lines:
   18 Gauge - [**2186-10-26**] 09:02 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   awaiting portugese interpreter
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 35 minutes